US04267178
There were added 2 ml of a solution 5 N of HCl in tetrahydrofuran to a solution of 3.35 g of 1-(6,7-methylenedioxy-3,4-dihydro-2-naphthyl)-4-(2-pyrimidinyl) piperazine previously obtained, in 100 ml of anhydrous tetrahydrofuran. The hydrochloride of the enamine precipitated, and there were added, to the so-obtained suspension, 10 ml of a normal solution of sodium cyanoborohydride in tetrahydrofuran. The precipitate was then immediately dissolved and the solution was decolourised. 30 minutes later, the solvent was evaporated off and the residue was taken up with a normal sodium hydroxide solution, then extracted with chloroform. The chloroformic solution was then evaporated under reduced pressure and the viscous residue was taken up with 30 ml of anhydrous ethanol. The product crystallized and there were obtained 2.1 g of 1-(6,7-methylenedioxy-1,2,3,4-tetrahydro-2-naphthyl)-4-(2-pyrimidinyl) piperazine, beige crystals melting at 134°-135° C. The corresponding monomethanesulfonate melts at 218°-225° C.

reactant | HCl | Cl | ClH
reactant | 1-(6,7-methylenedioxy-3,4-dihydro-2-naphthyl)-4-(2-pyrimidinyl) piperazine | 3.35 g | C1OC=2C=C3CCC(=CC3=CC2O1)N1CCN(CC1)C1=NC=CC=N1 | C19H20N4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(6,7-methylenedioxy-1,2,3,4-tetrahydro-2-naphthyl)-4-(2-pyrimidinyl) piperazine | 2.1 g | C1OC=2C=C3CCC(CC3=CC2O1)N1CCN(CC1)C1=NC=CC=N1 | C19H22N4O2
